* 04_load_step_transient.cir
* Load step transient: 10 mA -> 150 mA -> 10 mA.

.include ./ldo_macromodel.inc
.options reltol=1e-5 abstol=1e-12 vntol=1e-6 method=gear

Vvin vin 0 3.3
Vref vref 0 1.2
Iload vout 0 PULSE(10m 150m 50u 1u 1u 150u 300u)

Xldo vin vout vref fb gate ldo_pmos params: rtop=400k rbot=600k cout=10u esr=50m fp_ea=20k wpass=30000u cgate=300p

.tran 0.2u 600u 0 0.2u

.control
set filetype=ascii
run
wrdata 04_load_step_transient.csv time v(vout) v(fb) v(gate) i(vvin)
quit
.endc

.end

